US06384041B1
A suspension of 40 mg of [[2-methoxy-5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester, 2.0 mL of methanol and 0.5 mL of 2 M sodium hydroxide were stirred at ambient temperature for 18 hours. The reaction was diluted with 10 mL of water and then adjusted to pH 4 with 1 M HCl providing a precipitate. The precipitate was collected by filtration and washed with 5 mL of water and dried in vacuo (40° C., 10 torr) to provide 22 mg of [[2-methoxy-5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid as a white solid. nmr (500 MHz, dmso-d6) δ0.98 (t, J=7.5 Hz, 3H), 2.89 (q, J=7.5 Hz, 2H), 3.87 (s, 3H), 4.87 (s, 2H), 5.48 (s, 2H), 7.17 (d, J=7.3 Hz, 2H), 7.31 (m, 3H), 7.50 (s, 1H), 7.93 (s, 1H), 12.89 (bs, 1H)

reactant | [[2-methoxy-5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid methyl ester | 40 mg | COC(COC=1C2=C(N=C(N1)OC)N(C(=C2C(C(=O)N)=O)CC)CC2=CC=CC=C2)=O | C21H22N4O6
reactant | methanol | 2.0 mL | CO | CH4O
reactant | sodium hydroxide | 2 M, 0.5 mL | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | water | 10 mL | O | H2O
product | [[2-methoxy-5-(aminooxoacetyl)-6-ethyl-7-(phenylmethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]oxy]acetic acid | 22 mg | COC=1N=C(C2=C(N1)N(C(=C2C(C(=O)N)=O)CC)CC2=CC=CC=C2)OCC(=O)O | C20H20N4O6
